US09079866B2
racemic 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-ol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and racemic-1-((2-bromophenyl)sulfonyl)piperidin-3-ol. MS (ESI): mass calcd. for C21H21FN4O3S, 428.13; m/z found, 429.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.34 (s, 1H), 8.31 (d, J=1.4, 1H), 8.11-8.06 (m, 1H), 8.01-7.96 (m, 1H), 7.73-7.68 (m, 1H), 7.64-7.59 (m, 1H), 7.44-7.40 (m, 1H), 7.34-7.32 (m, 1H), 7.31-7.29 (m, 1H), 3.44-3.35 (m, 1H), 3.27-3.21 (m, 1H), 3.15-3.06 (m, 1H), 2.48-2.38 (m, 1H), 2.27-2.21 (m, 1H), 1.88-1.79 (m, 1H), 1.68-1.59 (m, 1H), 1.41-1.28 (m, 1H), 1.26-1.15 (m, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | racemic-1-((2-bromophenyl)sulfonyl)piperidin-3-ol | BrC1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)O | C11H14BrNO3S
product | racemic 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-3-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CC(CCC1)O)F | C21H21FN4O3S
